US07629494B2
After a solution of 3-bromo-2-hydroxybenzaldehyde (1.35 g, 6.7 mmol) in THF (10 ml) was cooled to 0° C., a solution of vinyl magnesium chloride in THF (2.0M, 8.05 ml, 16.1 mmol) was added thereto under a nitrogen atmosphere over 5 minutes. The mixture was gradually warmed to room temperature and stirred at room temperature for 3 hours. The mixture was cooled to 0° C. and a 20% aqueous ammonium chloride solution (30 ml) was added thereto at 0° C. After the mixture was stirred at room temperature for 30 minutes, it was poured to ice-water (30 ml). The mixture was extracted with ethyl acetate (2×50 ml). The organic layer was combined and successively washed with water (30 ml) and a saturated aqueous NaCl solution (30 ml), followed by drying with anhydrous sodium sulfate. The solid was removed by filtration and the filtrate was concentrated to obtain a pale brown oil. This oil was purified by silica gel column chromatography (use of 40 g of Wakogel C-100E, elution with hexane:ethyl acetate=5:1) to obtain 1.24 g of 2-bromo-6-(1-hydroxy-2-propenyl)phenol.

reactant | 3-bromo-2-hydroxybenzaldehyde | 6.7 mmol, 1.35 g | BrC=1C(=C(C=O)C=CC1)O | C7H5BrO2
reactant | vinyl magnesium chloride | C(=C)[Mg]Cl
reactant | ammonium chloride | 30 ml | [Cl-].[NH4+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 16.1 mmol, 2.0M, 8.05 ml | C1CCOC1 | C4H8O
product | 2-bromo-6-(1-hydroxy-2-propenyl)phenol | 1.24 g | BrC1=C(C(=CC=C1)C(C=C)O)O | C9H9BrO2
